US08247429B2
3-benzyl-2-methyl-6,7-dihydroindeno[4,5-d]imidazol-8(3H)-one
To a suspension of 60% sodium hydride (33 mg, 0.81 mmol) in tetrahydrofuran (5 mL) were added a solution of methyl 1-benzyl-5-(3-methoxy-3-oxopropyl)-2-methyl-1H-benzimidazole-4-carboxylate (148 mg, 0.40 mmol) in tetrahydrofuran (3 mL) and methanol (1 drop), and the mixture was heated under reflux for 2.5 hr. The reaction solution was concentrated to dryness to give yellow-brown crystals. The obtained crystals were gradually added to 12M hydrochloric acid (3 mL) heated to 100° C., and the mixture was stirred for 2 hr. The reaction solution was neutralized with 8M aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (62 mg, yield 56%).

reactant | sodium hydride | 0.81 mmol, 33 mg | [H-].[Na+]
reactant | methyl 1-benzyl-5-(3-methoxy-3-oxopropyl)-2-methyl-1H-benzimidazole-4-carboxylate | 0.40 mmol, 148 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2C(=O)OC)CCC(=O)OC)C | C21H22N2O4
reactant | hydrochloric acid | 12M, 3 mL | Cl | ClH
reactant | sodium hydroxide | 8M | [OH-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | methanol | 1 drop | CO | CH4O
product | 3-benzyl-2-methyl-6,7-dihydroindeno[4,5-d]imidazol-8(3H)-one | 62 mg, yield 56% | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=1CCC(C12)=O)C | C18H16N2O
